.param    P1_POS   = 0.5   ;Volume
.param    P2_POS   = 0.7   ;Sustain
.param    P3_POS   = 0.64   ;Tone
.include "./PartModels/1N914.LIB"
.model __RV2 potentiometer( r=100k position={P2_POS} )
.model __Q4 NPN
.model __Q2 NPN
.model __RV1 potentiometer( r=100k position={P3_POS} )
.model __Q1 NPN
.model __Q3 NPN
.model __RV3 potentiometer( r=100k position={P1_POS} )
R17 RamsHead_Clip2 Net-_C11-Pad2_ 33k
R18 GND Net-_C10-Pad1_ 33k
R20 GND Net-_Q4-B_ 100k
R22 GND Net-_Q4-E_ 2.7k
C11 GND Net-_C11-Pad2_ 12n
ARV2 Net-_C11-Pad2_ Net-_C12-Pad1_ Net-_C10-Pad1_ __RV2
C10 Net-_C10-Pad1_ RamsHead_Clip2 4n
C13 Net-_Q4-C_ Net-_C13-Pad2_ 470n
R19 Net-_Q4-B_ VCC 470k
C12 Net-_C12-Pad1_ Net-_Q4-B_ 470n
R21 Net-_Q4-C_ VCC 12k
Q4 Net-_Q4-C_ Net-_Q4-B_ Net-_Q4-E_ __Q4
Q2 RamsHead_Clip1 Net-_Q2-B_ Net-_Q2-E_ __Q2
D2 Net-_D1-A_ RamsHead_Clip1 1N914
R12 Net-_C7-Pad2_ Net-_Q3-B_ 7.5k
C7 RamsHead_Clip1 Net-_C7-Pad2_ 47n
R11 Net-_Q2-E_ GND 100
R9 Net-_Q2-B_ GND 100k
C3 RamsHead_Boost Net-_C3-Pad2_ 470n
ARV1 Net-_R6-Pad1_ Net-_C4-Pad1_ Net-_C3-Pad2_ __RV1
R7 Net-_C4-Pad2_ Net-_Q2-B_ 7.5k
C4 Net-_C4-Pad1_ Net-_C4-Pad2_ 470n
R6 Net-_R6-Pad1_ GND 1.2k
Q1 RamsHead_Boost Net-_Q1-B_ Net-_Q1-E_ __Q1
R2 Net-_Q1-B_ GND 100k
R5 Net-_Q1-E_ GND 100
C1 Net-_C1-Pad1_ Net-_Q1-B_ 470n
R3 Net-_Q1-B_ RamsHead_Boost 470k
D4 Net-_D3-A_ RamsHead_Clip2 1N914
C8 Net-_D3-A_ Net-_Q3-B_ 47n
R15 RamsHead_Clip2 VCC 12k
D3 RamsHead_Clip2 Net-_D3-A_ 1N914
R14 Net-_Q3-B_ GND 100k
R16 Net-_Q3-E_ GND 100
Q3 RamsHead_Clip2 Net-_Q3-B_ Net-_Q3-E_ __Q3
C9 RamsHead_Clip2 Net-_Q3-B_ 470p
R13 Net-_Q3-B_ RamsHead_Clip2 470k
R10 RamsHead_Clip1 VCC 12k
C6 RamsHead_Clip1 Net-_Q2-B_ 470p
R8 Net-_Q2-B_ RamsHead_Clip1 470k
C5 Net-_D1-A_ Net-_Q2-B_ 470n
D1 RamsHead_Clip1 Net-_D1-A_ 1N914
ARV3 GND Rams_Head_Out Net-_C13-Pad2_ __RV3
R1 Net-_C1-Pad1_ Input 33k
C2 RamsHead_Boost Net-_Q1-B_ 470p
R4 RamsHead_Boost VCC 12k
V1 VCC GND DC 9 
V2 Input GND DC 0 SIN( 0 50m 500 0 0 0 ) AC 1  
.tran 2u 100m 80m
.op
.control
 run
 print Rams_Head_Out
 quit
.endc
.end
